US07829585B2
5-Iodo-2-phenoxymethyl-benzofuran
To an N,N-dimethylformamide (20 mL) solution of 2-bromomethyl-5-iodo-benzofuran (270 mg, 0.801 mmol) and phenol (113 mg, 1.2 mmol) was added potassium carbonate (332 mg, 2.4 mmol). This mixture was stirred at room temperature for 14 hours. The reaction mixture was poured into sat. NaCl and extracted with ethyl acetate. The organic layer was separated and dried over anhydrous magnesium sulfate followed by concentrating under a reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=7:1) to obtain the title compound (251 mg, 90%).

reactant | 2-bromomethyl-5-iodo-benzofuran | 0.801 mmol, 270 mg | BrCC=1OC2=C(C1)C=C(C=C2)I | C9H6BrIO
reactant | phenol | 1.2 mmol, 113 mg | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 2.4 mmol, 332 mg | C([O-])([O-])=O.[K+].[K+]
reactant | NaCl | [Na+].[Cl-]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 5-Iodo-2-phenoxymethyl-benzofuran | 251 mg, 90% | IC=1C=CC2=C(C=C(O2)COC2=CC=CC=C2)C1 | C15H11IO2
